US07932262B2
To a solution of triphenylphosphine (2 eq) in THF was added di-terbutylazodicarboxylate (2 eq). The mixture was stirred 15 minutes at ambient temperature under nitrogen atmosphere. To that was added 1-isopropylpiperidine-4-ol (5 eq). The mixture was stirred 15 minutes at ambient temperature followed by addition of 2-(4-fluoro-3-methylphenylamino) quinazolin-7-ol (1 eq). The mixture was stirred overnight at ambient temperature. The LC-MS of reaction mixture shows the presence of two product (2:1) with identical mass. The reaction mixture was concentrated and purified by semi-preparative HPLC to provide (N-(4-fluoro-3-methylphenyl)-7-(1-isopropyl-piperidin-4-yloxy)-quinazolin-2-amine as a major product ES/MS m/z 395.2 (MH+).

reactant | triphenylphosphine | 2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-isopropylpiperidine-4-ol | 5 eq | C(C)(C)N1CCC(CC1)O | C8H17NO
reactant | 2-(4-fluoro-3-methylphenylamino) quinazolin-7-ol | 1 eq | FC1=C(C=C(C=C1)NC1=NC2=CC(=CC=C2C=N1)O)C | C15H12FN3O
solvent | THF | C1CCOC1 | C4H8O
product | N-(4-fluoro-3-methylphenyl)-7-(1-isopropyl-piperidin-4-yloxy)-quinazolin-2-amine | FC1=C(C=C(C=C1)NC1=NC2=CC(=CC=C2C=N1)OC1CCN(CC1)C(C)C)C | C23H27FN4O
